US07217740B2
4-(Phenylsulfonyl)benzaldehyde (prepared according to the method of Ulman et al., J. Org. Chem. (1989), 54 (19), 4691–2; 12.3 g, 50 mmol) was dissolved in tetrahydrofuran and methanol was added, followed by careful addition of sodium borohydride (2.0 g, 52.9 mmol). The reaction was stirred for 1 hour before pouring into water and extracting with ethyl acetate. The organic layer was dried over MgSO4 and evaporated in vacuo to give [4-(phenylsulfonyl)phenyl]methanol. This was treated with phosphorus tribromide and heated to reflux for 16 hours. The cooled reaction mixture was poured onto ice and extracted with ethyl acetate. The organic layer was dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with dichloromethane, to give 1-(bromomethyl)-4-(phenylsulfonyl)benzene (10.1 g, 65%). δH (500 MHz, CDCl3): 7.96–7.90 (4H, m), 7.59–7.56 (1H, m), 7.52–7.49 (4H, m).

reactant | 4-(Phenylsulfonyl)benzaldehyde | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C13H10O3S
reactant | methanol | CO | CH4O
reactant | sodium borohydride | 52.9 mmol, 2.0 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-(phenylsulfonyl)phenyl]methanol | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)CO | C13H12O3S
